US05880130
Using an analogous procedure to that described in Example 27, 4-(3'-hydroxyanilino)-6-(3'-methylanilino)pyrimidine (0.5 g) was reacted with 3-dimethylaminopropyl chloride to give 4-[3'-(3-dimethylaminopropoxy)anilino]-6-(3'-methylanilino)pyrimidine in 16% yield, m.p. 142°-144° C.;

reactant | 4-(3'-hydroxyanilino)-6-(3'-methylanilino)pyrimidine | 0.5 g | OC=1C=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=CC1 | C17H16N4O
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
product | 4-[3'-(3-dimethylaminopropoxy)anilino]-6-(3'-methylanilino)pyrimidine | 16% yield | CN(CCCOC=1C=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=CC1)C | C22H27N5O
